US05428168
4-(3-Hydroxypropylamino)-3-nitropyridine (4.12 g, 20.9 mmol) was dissolved in ethanol (130 ml) and Raney nickel (411 mg, 7.0 mmol) added. The stirred mixture was hydrogenated for 3 days. The catalyst was removed by filtration under argon and the solvent removed under reduced pressure to give 3-amino-4-(3-hydroxypropylamino)pyridine as a brown oil which was used directly in the next step.

reactant | 4-(3-Hydroxypropylamino)-3-nitropyridine | 20.9 mmol, 4.12 g | OCCCNC1=C(C=NC=C1)[N+](=O)[O-] | C8H11N3O3
solvent | ethanol | 130 ml | C(C)O | C2H6O
catalyst | Raney nickel | 7.0 mmol, 411 mg | [Ni] | Ni
product | 3-amino-4-(3-hydroxypropylamino)pyridine | NC=1C=NC=CC1NCCCO | C8H13N3O
